US07939526B2
To a 0° C. mixture of 1-(aminomethyl)cyclopropanol (approximately 36.7 mmol, prepared as described by Lysenko, I. L. and Kulinkovich, O. G. Russ. i J. Org Chem. 2001, 17, 1238-1243) and triethylamine (6.30 mL, 45.4 mmol) in dichloromethane (120 mL) was added a solution of 4-chloro-3-nitroquinoline (7.28 g, 34.9 mmol) in dichloromethane (30 mL). The suspension was stirred at room temperature over the weekend. The dichloromethane was removed under reduced pressure and the residue was suspended in water (150 mL) and stirred at room temperature for 3 hours. A solid was isolated by filtration and dried in a vacuum oven to afford 8.99 g of 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclopropanol as a yellow solid.

reactant | 1-(aminomethyl)cyclopropanol | NCC1(CC1)O | C4H9NO
reactant | triethylamine | 45.4 mmol, 6.30 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 34.9 mmol, 7.28 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclopropanol | 8.99 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CC1)O | C13H13N3O3
